US04098760
2'-Anilino-2,2-dichloroacetanilide (Prior Art)
This compound is prepared in the same manner as Compound I, except that dichloroacetyl chloride (5.75 g) and N-phenyl-o-phenylenediamine (7.0 g) are used in place of trichloroacetyl chloride and 4-aminodiphenylamine, respectively. The product is recrystallized from a hexane/benzene (5/1) solvent mixture. The m.p. and chemical analysis are reported in Table I. This compound, which is also called ortho-dichloroacetylaminodiphenylamine, is referred to in U.S. Pat. No. 3,250,774, May 10, 1966, Schmidt et al.

reactant | dichloroacetyl chloride | 5.75 g | ClC(C(=O)Cl)Cl | C2HCl3O
reactant | N-phenyl-o-phenylenediamine | 7.0 g | C1(=CC=CC=C1)NC1=C(C=CC=C1)N | C12H12N2
reactant | trichloroacetyl chloride | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | 4-aminodiphenylamine | C1=CC=C(C=C1)NC2=CC=C(C=C2)N | C12H12N2
product | 2'-Anilino-2,2-dichloroacetanilide | N(C1=CC=CC=C1)C1=C(NC(C(Cl)Cl)=O)C=CC=C1 | C14H12Cl2N2O
